US06051586
2-Norbornane acetic acid (15 g, 97 mmol) was dissolved in anhydrous tetrahydrofuran (150 mL) and treated dropwise with lithium aluminum hydride (195 mL, 1 M in tetrahydrofuran) at 0° C. The reaction was stirred for three days then quenched by dropwise addition of water (50 mL). The reaction was diluted with diethyl ether (300 mL) and washed with water (3×200 mL). The combined organic phases were dried (MgSO4), filtered, and concentrated to yield an oil. The product was passed through a pad of silica gel to yield 2-bicyclo[2.2.1]hept-2-yl-ethanol as a colorless oil (13.1 g, 96%).

reactant | 2-Norbornane acetic acid | 97 mmol, 15 g | C12C(CC(CC1)C2)CC(=O)O | C9H14O2
reactant | lithium aluminum hydride | 1 M, 195 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 2-bicyclo[2.2.1]hept-2-yl-ethanol | 13.1 g, 96% | C12C(CC(CC1)C2)CCO | C9H16O
